US07282501B2
A mixture of 3-[4-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester (0.44 mmol, 0.24 g), phenol (0.53 mmol, 0.050 g), K3PO4 (0.88 mmol, 0.19 g), 2-(di-t-butylphosphino)biphenyl (0.066 mmol, 0.020 g), and Pd(OAc)2 (0.044 mmol, 0.010 g) in toluene (7 mL) was degassed under vacuum and backfilled with nitrogen (3×) and heated at 110° C. for 18 h. Additional Pd(OAc)2 (10 mg) and 2-(di-t-butylphosphino)biphenyl (20 mg) were added to ensure complete reaction, and the mixture was heated 5 h. Upon cooling, the mixture was placed directly onto a silica gel column and eluted with 30%-50% EtOAc/hexanes to give 3-(2-(isopropoxycarbonylamino-methyl)-4-{2-[5-methyl-2-(4-phenoxy-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid tert-butyl ester (0.11 g).

reactant | 3-[4-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester | 0.44 mmol, 0.24 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Br)CNC(=O)OC(C)C)=O | C30H37BrN2O6
reactant | phenol | 0.53 mmol, 0.050 g | C1(=CC=CC=C1)O | C6H6O
reactant | K3PO4 | 0.88 mmol, 0.19 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-(di-t-butylphosphino)biphenyl | 0.066 mmol, 0.020 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.044 mmol, 0.010 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(2-(isopropoxycarbonylamino-methyl)-4-{2-[5-methyl-2-(4-phenoxy-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid tert-butyl ester | 0.11 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OC1=CC=CC=C1)CNC(=O)OC(C)C)=O | C36H42N2O7
